US05473080
6. N-Allyl-N-[3-(4-fluorophenyl)allyl]amine
231.8 g (1.359 mol) of 3-(4-fluorophenyl)allyl chloride were added over the course of 25 min to a refluxing solution of 795.0 g (13.92 mol) of allylamine in 360 ml of toluene, and the mixture was then refluxed for 1 h. 1,000 ml were then distilled out through a 10 cm distillation column (5 mm glass rings) at a bath temperature up to 125° C. 1,000 ml of water were added to the distillation residue, and the pH was adjusted to 0.7 with 38% strength hydrochloric acid. The organic phase was separated off and discarded. The aqueous phase was adjusted to pH 12.7 with 50% strength sodium hydroxide solution and was extracted with toluene. The toluene extracts were dried with sodium sulfate and concentrated.

reactant | 3-(4-fluorophenyl)allyl chloride | 1.359 mol, 231.8 g | FC1=CC=C(C=C1)C=CCCl | C9H8ClF
reactant | allylamine | 13.92 mol, 795.0 g | C(C=C)N | C3H7N
solvent | toluene | 360 ml | C1(=CC=CC=C1)C | C7H8
product | N-Allyl-N-[3-(4-fluorophenyl)allyl]amine | C(C=C)NCC=CC1=CC=C(C=C1)F | C12H14FN
